US05292732
A 1.6N solution of n-butyllithium in n-hexane was added dropwise within 15 minutes at -70° C. under argon and while stirring to a solution of 7.1 ml of diisopropylamine in 200 ml of absolute tetrahydrofuran. The reaction mixture was stirred at 0° C. for 15 minutes, then again cooled to -70° C., treated with 30 ml of hexamethylphosphoric acid triamide and 9.5 g of 3-(1,3-dioxolan-2-yl)propiophenone, dissolved in 10 ml of absolute tetrahydrofuran and stirred for 15 minutes. After the addition of 3.2 ml of methyl iodide at -70° C. the mixture was brought to room temperature and stirred for 2 hours. The reaction solution was poured on to 100 ml of saturated ammonium chloride solution and extracted once with 200 ml of ethyl acetate and twice with 150 ml of ethyl acetate each time. The organic phases were washed with 100 ml of water, combined, dried with MgSO4 and filtered. The filtrate was concentrated and the residue, 23.4 g of brown oil, was chromatographed on 750 g of silica gel with hexane/ethyl acetate mixtures (4:1 to 2:1). 7.1 g (70%) of 3-(1,3-dioxolan-2-yl)-2-methylpropiophenone were isolated as a yellow oil.

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 7.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-(1,3-dioxolan-2-yl)propiophenone | 9.5 g | O1C(OCC1)CCC(=O)C1=CC=CC=C1 | C12H14O3
reactant | methyl iodide | 3.2 ml | CI | CH3I
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric acid triamide | 30 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 3-(1,3-dioxolan-2-yl)-2-methylpropiophenone | 7.1 g, 70% | O1C(OCC1)CC(C(=O)C1=CC=CC=C1)C | C13H16O3
